US07737149B2
N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-4-[(3R,5S)-3,4,5-trimethylpiperazin-1-yl]benzamide
N-[5-[(3,5-Dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-4-[(3R,5S)-3,4,5-trimethylpiperazin-1-yl]benzamide was prepared following the procedure for Example 100, but starting from ethyl 4-((3R,5S)-3,4,5-trimethylpiperazin-1-yl)benzoate (0.276 g, 1.00 mmol) and 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine (0.249 g, 1 mmol) and a 2M solution of trimethylaluminium in toluene (1.25 mL, 2.5 mmol). The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (0.027 g, 5.63%) as a white solid.

reactant | ethyl 4-((3R,5S)-3,4,5-trimethylpiperazin-1-yl)benzoate | 1.00 mmol, 0.276 g | C[C@@H]1CN(C[C@@H](N1C)C)C1=CC=C(C(=O)OCC)C=C1 | C16H24N2O2
reactant | 5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-amine | 1 mmol, 0.249 g | COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)N | C12H15N3O3
reactant | trimethylaluminium | C[Al](C)C
reactant | toluene | 2.5 mmol, 1.25 mL | C1(=CC=CC=C1)C | C7H8
product | N-[5-[(3,5-dimethoxyphenyl)methoxy]-2H-pyrazol-3-yl]-4-[(3R,5S)-3,4,5-trimethylpiperazin-1-yl]benzamide | 0.027 g, 5.63% | COC=1C=C(C=C(C1)OC)COC=1C=C(NN1)NC(C1=CC=C(C=C1)N1C[C@H](N([C@H](C1)C)C)C)=O | C26H33N5O4
